US07674795B2
The procedure used in Example 6 is followed, but starting from 4 g of 4-(4,5-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, and 0.27 g of Raney nickel in 35 ml of ethanol and 35 ml of tetrahydrofuran for 10 hours at 60° C. under an initial hydrogen pressure of one bar. After filtration of the catalyst, and purification by forming a paste in diisopropyl ether, in this way we obtain 1 g of 4-(4,5-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine, in the form of a beige powder which is used as it is in the following stage.

reactant | 4-(4,5-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 4 g | FC1=C(C=CC=2NC(=NC21)C2=CC=CC=1C(C3=CC=CC=C3C21)=NO)F | C20H11F2N3O
catalyst | Raney nickel | 0.27 g | [Ni] | Ni
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 4-(4,5-difluoro-1H-benzimidazol-2-yl)-9H-fluoren-9(R,S)-ylamine | 1 g | FC1=C(C=CC=2NC(=NC21)C2=CC=CC=1C(C3=CC=CC=C3C21)N)F | C20H13F2N3
